US05268386
A mixture of 5,7-dimethoxyspiro[1,2,3,4-tetrahydroquinoline-2,1'-cyclohexan]-4-one (prepared in Preparation 80) (0.422 g, 1.53 mmol) and pyridine hydrochloride (1.2 g, 10.4 mmol) is heated at 190° C. for one hour with stirring under nitrogen gas. After cooling, dilute hydrochloric acid is added to the mixture and the mixture is extracted with ethyl acetate. The extract is washed with saturated brine, dried, and the solvent is removed by distillation. The residue is placed on a silica gel column and eluted with a mixture of ethyl acetate and dichloromethane (1:3). From the earlier fractions, 5-hydroxy-7-methoxyspiro[1,2,3,4-tetrahydroquinoline-2,1'-cyclohexan]-4-one is obtained as a crystalline solid (0.098 g, 25%). From the succeeding fractions, the title compound is obtained as a crystalline solid (0.26 g, 68%). Recrystallization from diethyl ether gives a product having a melting point of 132°-133° C.

reactant | 5,7-dimethoxyspiro[1,2,3,4-tetrahydroquinoline-2,1'-cyclohexan]-4-one | 1.53 mmol, 0.422 g | COC1=C2C(CC3(CCCCC3)NC2=CC(=C1)OC)=O | C16H21NO3
reactant | pyridine hydrochloride | 10.4 mmol, 1.2 g | Cl.N1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
product | 5-hydroxy-7-methoxyspiro[1,2,3,4-tetrahydroquinoline-2,1'-cyclohexan]-4-one | OC1=C2C(CC3(CCCCC3)NC2=CC(=C1)OC)=O | C15H19NO3
